US07259262B2
1-[2-(4-{2-[(E)-2-(−4-Trifluoromethylsulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-oxazol-4-ylmethyl]-1H-imidazole
A mixture of 0.121 g (0.50 mmol) 4-(4-imidazol-1-ylmethyl-oxazol-2-yl)-phenol and 0.10 g (0.30 mmol) cesium carbonate in 10 ml butanone was stirred at 60° C. for 30 min, then 0.160 g (0.50 mmol) 4-chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole and 0.083 g (0.50 mmol) potassium iodide were added and stirring at 60° C. continued over night. After evaporation, 15 ml water was added and the mixture extracted with two portions of 15 ml ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate and evaporated to give 110 mg (42%) of the title compound as light brown crystals melting at 144-145° C. (from 2-propanol).

reactant | 4-(4-imidazol-1-ylmethyl-oxazol-2-yl)-phenol | 0.50 mmol, 0.121 g | N1(C=NC=C1)CC=1N=C(OC1)C1=CC=C(C=C1)O | C13H11N3O2
reactant | cesium carbonate | 0.30 mmol, 0.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 0.160 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)SC(F)(F)F | C13H9ClF3NOS
reactant | potassium iodide | 0.50 mmol, 0.083 g | [I-].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 1-[2-(4-{2-[(E)-2-(−4-Trifluoromethylsulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-oxazol-4-ylmethyl]-1H-imidazole | 110 mg, 42% | FC(F)(F)SC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)C=1OC=C(N1)CN1C=NC=C1 | C26H19F3N4O3S
